### PR TITLE
[Merged by Bors] - refactor(Algebra/Polynomial/Bivariate): simplify evalEval_list_prod proof

### PR DESCRIPTION
**Pull request by yuanyi-350**

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Bivariate.lean [hunk 1]
```diff
@@ -131,8 +131,7 @@ lemma evalEval_prod {ι : Type*} (s : Finset ι) (x y : R) (p : ι → R[X][Y])
 
 lemma evalEval_list_prod (x y : R) (l : List R[X][Y]) :
     l.prod.evalEval x y = (l.map <| evalEval x y).prod := by
-  simp only [evalEval, eval_list_prod, List.map_map]
-  rfl -- todo: add the missing lemma
+  simp only [evalEval, eval_list_prod, List.map_map, Function.comp_def]
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/Bivariate.lean]: Can you also unsqueeze the `simp`, as it is terminal?

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
